US03978226
Ethyl isocyanate (1 ml.) was added to a solution of 9-methylaminoxanthen (2.02 g.) in methylene chloride (10 ml.). There was an exothermic reaction and after 20 minutes at room temperature the solvent was evaporated. The residue was recrystallised from benzene to give N'-ethyl-N-methyl-N-9-xanthenylurea, m.p. 139°-141°C.

reactant | Ethyl isocyanate | 1 ml | C(C)N=C=O | C3H5NO
reactant | 9-methylaminoxanthen | 2.02 g | CNC1C2=CC=CC=C2OC=2C=CC=CC12 | C14H13NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N'-ethyl-N-methyl-N-9-xanthenylurea | C(C)NC(N(C1C2=CC=CC=C2OC=2C=CC=CC12)C)=O | C17H18N2O2
